US06632810B2
Synthesis of 2-hydroxymethyl-4,5,6-trimethoxybenzimidazole:
1,2-Di(benzyloxyacetamido)-3,4,5-trimethoxybenzene (1.9 g) was dissolved in xylene (30 mL), p-toluenesulfonic acid monohydrate (2.0 g) was added to the solution, and the mixture was stirred for 3 hours under reflux. After cooling, methanol saturated with ammonia was added to the reaction mixture into a uniform solution. The solution was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (chloroform:methanol=15:1 to 10:1) to obtain the title compound.

reactant | 1,2-Di(benzyloxyacetamido)-3,4,5-trimethoxybenzene | 1.9 g | C(C1=CC=CC=C1)OCC(=O)NC1=C(C(=C(C(=C1)OC)OC)OC)NC(COCC1=CC=CC=C1)=O | C27H30N2O7
reactant | p-toluenesulfonic acid monohydrate | 2.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methanol | CO | CH4O
reactant | ammonia | N | H3N
solvent | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-hydroxymethyl-4,5,6-trimethoxybenzimidazole | OCC=1NC2=C(N1)C=C(C(=C2OC)OC)OC | C11H14N2O4
